US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenyl)-2-oxoethyl]amide
Aqueous hydrochloric acid (2.1 mL, 2M) was added to a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenyl)[1,3]dioxolan-2-ylmethyl]amide (Preparation 49, 160 mg, 0.41 mmol) in acetone (20 mL). The mixture was heated under reflux for 90 min then allowed to cool to rt. The suspension was filtered then washed with acetone and air dried, to give the title compound as a pale yellow solid. δH (d6 DMSO): 3.86 (3H, s), 4.79 (2H, d), 7.08 (2H, d), 7.23 (1H, s), 7.77 (1H, s), 8.03 (2H, d), 8.58 (1H, s), 9.14 (1H, t), 12.31 (1H, br s). m/z (ES+)=344 [M+H]+; RT=3.34 min.

reactant | hydrochloric acid | 2M, 2.1 mL | Cl | ClH
reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenyl)[1,3]dioxolan-2-ylmethyl]amide | 0.41 mmol, 160 mg | COC1=CC=C(C=C1)C1(OCCO1)CNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C19H18ClN3O4
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-methoxyphenyl)-2-oxoethyl]amide | COC1=CC=C(C=C1)C(CNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)=O | C17H14ClN3O3
